US08067457B2
N-[2-({(3R)-1-[1-(3-methylphenyl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide (58)
The title compound was synthesized in similar fashion to N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide, whereby 1-(3-methylphenyl)piperidin-4-one was substituted for 1-(6-methoxypyridin-3-yl)piperidin-4-one, and was isolated as a white solid. 1H-NMR (CD3OD) δ: 1.77-1.87 (m, 2H), 2.04-2.19 (m, 3H), 2.40-2.47 (m, 1H), 2.74 (t, J=12.7 Hz, 2H), 3.16-3.24 (m, 1H), 3.34-3.42 (r, 2H), 3.54-3.63 (m, 2H), 3.77 (t, J=12.9 Hz, 2H), 4.03 (s, 2H), 4.48-4.52 (m, 1H), 6.68 (d, J=7.5 Hz, 1H), 6.75-6.80 (m, 2H), 7.10 (t, J=7.9 Hz, 1H), 7.11 (t, J=7.9 Hz, 1H), 7.69 (t, J=7.9 Hz, 2H), 7.87 (d, J=8.1 Hz, 1H), 8.15 (d, J=7.8 Hz, 1H), 8.22 (s, 1H), 8.36 (s, 1H). MS m/z: 489 (M+1).

reactant | N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | COC1=CC=C(C=N1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H30F3N5O3
reactant | 1-(3-methylphenyl)piperidin-4-one | CC=1C=C(C=CC1)N1CCC(CC1)=O | C12H15NO
reactant | 1-(6-methoxypyridin-3-yl)piperidin-4-one | COC1=CC=C(C=N1)N1CCC(CC1)=O | C11H14N2O2
product | N-[2-({(3R)-1-[1-(3-methylphenyl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | CC=1C=C(C=CC1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C26H31F3N4O2
